US07030128B2
To a solution of imidazo[1,2-α]pyrimidin-7-ylmethanol (4.64 g, 34.1 mmol) in dichloromethane under an atmosphere of nitrogen was added triphenylphosphine (10.6 g, 40.5 mmol) and carbon tetrabromide (13.4 g, 40.5 mmol). This mixture was stirred at room temperature for 2.5 h before addition of ethereal hydrogen chloride (1.0M, 100 ml) in a dropwise manner and allowed to stir at room temperature for a further 1 h. Reaction mixture was evaporated to dryness under reduced pressure and the resulting solid washed with dichloromethane followed by ether and then dried under vacuum to give 7-chloromethylimidazo[1,2-α]pyrimidine hydrochloride salt (5.0 g, 79%) as a pale brown solid: δH (360 MHz, d6-DMSO) 5.06 (2H, s), 7.77 (1H, d, J 7), 8.31-8.35 (2H, m), 9.37 (1H, d, J 7); m/z (ES+) 168, 170 (M++H).

reactant | imidazo[1,2-α]pyrimidin-7-ylmethanol | 34.1 mmol, 4.64 g | N=1C=CN2C1N=C(C=C2)CO | C7H7N3O
reactant | triphenylphosphine | 40.5 mmol, 10.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 40.5 mmol, 13.4 g | C(Br)(Br)(Br)Br | CBr4
reactant | hydrogen chloride | 1.0M, 100 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-chloromethylimidazo[1,2-α]pyrimidine hydrochloride salt | 5.0 g, 79% | Cl.ClCC1=NC=2N(C=C1)C=CN2 | InChI=1S/C7H6ClN3.ClH/c8-5-6-1-3-11-4-2-9-7(11)10-6;/h1-4H,5H2;1H
